US05157026
Preparation of 8-Propyl-9-(2'-(tetrazol-5-yl)biphen-4-yl)methylpurine
6-Chloro-8-propyl-9-(2'-(tetrazol-5-yl)biphen-4-yl)methylpurine (0.030 g) was dissolved in ethanol (2 ml) and was stirred under an atmosphere of hydrogen in presence of Pd-C(10%) (0.01 g) for 24 hours. The catalyst was filtered off and the filtrate was evaporated to dryness giving the pure desired product as a glass like solid (0.020 g).

reactant | 6-Chloro-8-propyl-9-(2'-(tetrazol-5-yl)biphen-4-yl)methylpurine | 0.030 g | ClC1=C2N=C(N(C2=NC=N1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C22H19ClN8
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.01 g | [Pd] | Pd
product | 8-Propyl-9-(2'-(tetrazol-5-yl)biphen-4-yl)methylpurine | C(CC)C=1N(C2=NC=NC=C2N1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H20N8
